US04240820
A mixture of 180 g (1 mole) of 2-amino-3-cyano-4-tert.-butyl-thiophene and 750 ml of 95-97% strength sulphuric acid was stirred at 100°-110° C. for one hour, whereupon a slightly exothermic reaction started, so that when a temperature of 100° C. was reached no further heating was required. The reaction mixture was left to cool and was stirred into 5 liters of ice-water and neutralized with about 3 liters of 25% strength aqueous ammonia solution. The solid product which precipitated was filtered off, washed with water and dried at 50° C. 194 g of 2-amino-3-aminocarbonyl-4-tert.-butyl-thiophene of melting point 145° C. were obtained in this manner.

reactant | 2-amino-3-cyano-4-tert.-butyl-thiophene | 1 mole, 180 g | NC=1SC=C(C1C#N)C(C)(C)C | C9H12N2S
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
product | 2-amino-3-aminocarbonyl-4-tert.-butyl-thiophene | 194 g | NC=1SC=C(C1C(=O)N)C(C)(C)C | C9H14N2OS
